Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Transaminitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of ___ headaches presents with 
pruritus and abnormal liver function tests. This is a previously 
healthy man who had a febrile illness to ___ in early 
___ along with sore throat.  This cleared up without any 
intervention.  Shortly after this, he began having ___ 
headaches, and was placed on a ___ week prednisone taper for 
this.  After stopping this in ___, he developed a 
pruritic raised rash on his arms, legs, chest and back. Since 
this started, he has been seen by multiple providers and had a 
recent admission to ___. He'd been diagnosed 
with folliculitis and treated with doxycycline for 5 days, upon 
which this was stopped.  More testing was done, including Lyme, 
Anaplasmosis and hepatitis studies, when it was noticed that he 
had developed transaminitis.  He was diagnosed with possible 
anaplasmosis given a positive antibody and again treated with 
doxycycline, but did not tolerate it.  Meanwhile, on serial 
checks of his liver function tests, his transaminases have been 
steadily increasing along with his total bilirubin. He reports 
worsening pruritus, and reports the rash is about the same. He 
denies abdominal pain, nausea, vomiting, confusion, no pain or 
bleeding, fever or chills.  He denies IV drug use, denies 
alcohol use, denies any history of hepatitis, denies use of 
acetaminophen.  LFTs reached a peak of AST 1203, ALT 1881 on 
___, with TBili 4.3 at that time.

In the ED, initial vitals were 97.7 81 ___ 98% RA.  He was 
noted to have scleral icterus and diffuse papules on the trunk 
and limbs sparing the palms and soles along with the face.  Many 
of the papules have a punctate area of crusted hemorrhage in the 
center, with no oral mucosal lesions.  There was no asterixis.  
Labs showed ALT 1251, AST 612, AP 320, Tbili 5.9, Dbili 4.0, INR 
0.9, WBC 8.5K, hemoglobin 14.9.  He received diphenhydramine 50 
mg IV x 1.

Currently, the patient reports mild pruritus, no abdominal pain, 
no nausea.
 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.  
 
Past Medical History:
___ headaches
ADHD 
 
Social History:
___
Family History:
Father with prostate cancer and type 2 diabetes.  No history of 
liver disease.
 
Physical Exam:
ADMISSION LABS
--------------
Vitals: 97.7PO 139/91 73 16 96% on RA 
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae icteric, OP 
clear, MMM.  No thrush.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  Liver 
does not seem to be enlarged. 
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: Papular rash scattered over arms, legs, chest and back, 
many crusted over.
Neuro:  non-focal.  
PSYCH: Appropriate and calm.  

DISCHARGE LABS
--------------
VS: 97.8PO ___ 16 96 RA    
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae icteric, OP 
clear, MMM.  No thrush.
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  Liver 
does not seem to be enlarged. 
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: Papular rash scattered over arms, legs, chest and back, 
many crusted over.
Neuro:  non-focal.  
PSYCH: Appropriate and calm.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 03:20PM BLOOD WBC-8.5 RBC-4.82 Hgb-14.9 Hct-44.8 MCV-93 
MCH-30.9 MCHC-33.3 RDW-16.5* RDWSD-56.5* Plt ___
___ 06:19PM BLOOD ___ PTT-36.8* ___
___ 03:20PM BLOOD Glucose-86 UreaN-13 Creat-0.9 Na-136 
K-4.0 Cl-103 HCO3-21* AnGap-16
___ 03:20PM BLOOD ALT-1251* AST-612* AlkPhos-320* 
TotBili-5.9* DirBili-4.0* IndBili-1.9
___ 11:30AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.1

The following tests were performed at the OSH: ___ negative, 
anti-LKM antibody negative, EBV IgM negative, EBNA positive, HCV 
Ab negative, HAV IgM non-reactive, Hep B core IgM non-reactive, 
CMV testing negative, HSV IgG negative, Babesia and Ehrlichia 
testing negative, Lyme antibody negative, HIV negative

IMAGING
-------
___ ___:
5 x 3 mm transiently enhancing subcapsular nodule right hepatic 
lobe without correlate on precontrast MRI images or on the CT 
scan.  Differential diagnosis includes transient hepatic 
intensity difference, atypical hemangioma, and hepatocellular 
carcinoma.  Short interval follow-up MRI recommended in 3 
months.  

No evidence of biliary dilatation, biliary stone, or pancreatic 
lesion.

Gastric antrum appears normal on this examination.

Abdominal ultrasound ___ (OSH):
Non-distended gall bladder with subtle wall thickening and no 
pericholecystic fluid or stones.  The most common cause for gall 
bladder wall thickening is hypoalbuminemia or non-fasting state. 
 Inflammation can also cause this finding but is less common.

Gastric antrum was not examined.  Please see CT scan and report 
demonstrating prominent wall thickening in the antrum and 
duodenal cap.

CT A/P ___:
Question thickening of the gastric antrum, which may be 
secondary to gastritis or less likely malignancy.

Upper GI series is recommended.

Fluid-filled small bowel loops in the distal ileum without 
definite wall thickening.  Mild enteritis cannot be excluded.   

DISCHARGE LABS
--------------
___ 09:00AM BLOOD WBC-7.5 RBC-4.48* Hgb-14.0 Hct-41.4 
MCV-92 MCH-31.3 MCHC-33.8 RDW-16.2* RDWSD-55.0* Plt ___
___ 09:00AM BLOOD Glucose-108* UreaN-11 Creat-0.9 Na-140 
K-3.8 Cl-104 HCO3-27 AnGap-13
___ 09:00AM BLOOD ALT-694* AST-216* AlkPhos-265* 
TotBili-5.4*
 
Brief Hospital Course:
___ year old male with history of ___ headaches presents with 
pruritus and abnormal liver function tests suggestive of 
hepatitis. 

# Hepatitis of unclear origin: unclear etiology at this time.  
Febrile illness one month prior to transaminitis might suggest 
etiology.  No significant alcohol use.  INR normal, no 
encephalopathy.  LFTs downtrending upon presenting to ___.  
Differential is wide, and includes viral syndrome, drug effect, 
toxic exposure, less likely ischemia, autoimmune.  Hepatitis A, 
B and C testing normal at outside hospital.  Anaplasma IgG was 
positive, Lyme testing negative.  ___ without evidence of 
obstruction.  The following tests were performed at the OSH: ___ 
negative, anti-LKM antibody negative, EBV IgM negative, EBNA 
positive, HCV Ab negative, HAV IgM non-reactive, Hep B core IgM 
non-reactive, CMV testing negative, HSV IgG negative, Babesia 
and Ehrlichia testing negative, Lyme antibody negative, HIV 
negative.  Anti-mitochondrial antibody was pending at the time 
of discharge at ___.  Hepatology consulted 
on the patient and recommended starting ursodiol.  LFTs 
continued to downtrend until the time of discharge.  At this 
time, best hypothesis is that this is a viral hepatitis now 
resolving, etiology not identified.  He will follow up with 
___ Hepatology after discharge.  His liver function tests 
should be rechecked upon following up with his PCP.
 
# Rash: pruritic rash, unclear etiology.  ___ or may not be 
related to hepatitis.  No leukocytosis, fever, oral lesions.  
Overall seemed to be resolving during his admission.  He was 
seen by Dermatology who took a biopsy, pending at discharge, and 
recommended supportive care.  He was placed on sarna lotion and 
diphenhydramine for pruritus relief.

# Hepatic lesion: noted on OSH ___ need f/u imaging in 3 
months.  This will be communicated to the patient's PCP
 
# ___ headaches: continued home verapamil

# ADHD: Vyvanse not on formulary, patient did not take this 
while hospitalized.
 
TRANSITIONS OF CARE
-------------------
# Follow-up: He will follow up with ___ Hepatology after 
discharge.  His liver function tests should be rechecked upon 
following up with his PCP, which is scheduled.  Skin biopsy 
result will need to be followed up.

# Code status: Full code, confirmed  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil 120 mg PO Q8H 
2. Vyvanse (lisdexamfetamine) 40 mg oral DAILY 
3. Cholestyramine 4 gm PO QID 

 
Discharge Medications:
1.  Sarna Lotion 1 Appl TP QID:PRN pruritus  
2.  Ursodiol 500 mg PO BID 
RX *ursodiol 500 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0 
3.  Cholestyramine 4 gm PO QID  
4.  Verapamil 120 mg PO Q8H  
5.  Vyvanse (lisdexamfetamine) 40 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatitis, likely viral
Rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent stay at 
___.  You came for further evaluation of hepatitis and a rash. 
 While here, it was noticed that all of your liver labs were 
improving.  We followed up on labs drawn at ___ 
___, and all of these were negative as well.  At this time, 
we do not know for sure what caused this, but it is likely an 
unidentified viral process.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!
 
Followup Instructions:
___